US09254284B2
5-(4-Cyclopropyl-1H-imidazol-1-yl)-2-fluoro-4-methylbenzonitrile (11.21 g, 46.50 mmol) was placed in a round bottom flask fitted with a reflux condenser, and suspended in 38% hydrochloric acid (200 mL). The mixture was heated to 100° C. for 4.5 hours, and then cooled to room temperature. Solvent was removed under reduced pressure to give a pink solid, to which was added 100 ml of EA. The solid product was collected by filtration and washed with 3×100 mL EA. To the solid product was added 100 mL 10% methanol in dichloromethane, the mixture stirred, and the filtrate collected. This was repeated with 2 more 100 ml portions of 10% methanol in dichloromethane. The filtrates were combined and solvent was removed under reduced pressure, to provide crude 5-(4-cyclopropyl-1H-imidazol-1-yl)-2-fluoro-4-methylbenzoic acid hydrochloride. No further purification was carried out (11.13 g, 37.54 mmol). Anal. LC/MS (m/z: 261, M+1)

reactant | 5-(4-Cyclopropyl-1H-imidazol-1-yl)-2-fluoro-4-methylbenzonitrile | 46.50 mmol, 11.21 g | C1(CC1)C=1N=CN(C1)C=1C(=CC(=C(C#N)C1)F)C | C14H12FN3
reactant | EA | 100 ml | CC(OCC)=O | C4H8O2
reactant | hydrochloric acid | 200 mL | Cl | ClH
product | 5-(4-cyclopropyl-1H-imidazol-1-yl)-2-fluoro-4-methylbenzoic acid hydrochloride | Cl.C1(CC1)C=1N=CN(C1)C=1C(=CC(=C(C(=O)O)C1)F)C | InChI=1S/C14H13FN2O2.ClH/c1-8-4-11(15)10(14(18)19)5-13(8)17-6-12(16-7-17)9-2-3-9;/h4-7,9H,2-3H2,1H3,(H,18,19);1H
